US05496843
3) 4-Chloro-2-(3-hydroxypropyl)toluene
To a solution of 4-chloro-2-(3-oxopropyl)toluene in MeOH was added excess NaBH4 at room temperature and the mixture was diluted with water, treated with 1N HCl, and extracted with AcOEt. The extracts was dried and concentrated to give quantitatively the title compound: 1H NMR (CDCl3) δ7.14 (bd, 1H, J=9 Hz), 7.06 (d, 1H, J=9 Hz), 7.05 (bs, 1H), 3.66~3.77 (m, 2H), 2.68 (t, 2H, J=7.2 Hz), 2.30 (s, 3H), 1.83 (5et, 2H, J=7.2 Hz), 1.35~1.44 (br, 1H).

reactant | 4-chloro-2-(3-oxopropyl)toluene | ClC1=CC(=C(C=C1)C)CCC=O | C10H11ClO
reactant | NaBH4 | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | 4-Chloro-2-(3-hydroxypropyl)toluene | ClC1=CC(=C(C=C1)C)CCCO | C10H13ClO
